US06180622B2
Concentrated hydrochloric acid (1.3 ml) is added to a solution of 1.37 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine in 15 ml of acetonitrile under ice cooling, and the mixture is stirred for 30 min. The reaction mixture is neutralized with a saturated sodium hydrogencarbonate solution, and ethyl acetate is added, followed by extraction three times. The extract is washed three times with semi-saturated saline and dried over magnesium sulfate. The solvent is removed by evaporation to give 1.03 g of (3R,5S)-1-allyloxycarbonyl-3-hydroxy-5-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine. This compound is dissolved in 18 ml of THF, 1.53 g of triphenylphosphine and 0.92 ml of diethyl azodicarboxylate are added thereto at −17° C., and the mixture is stirred for 30 min. Further, 0.7 ml of thiobenzoic acid is added thereto, and the mixture is stirred at about −20° C. for 40 min. The solvent is removed by evaporation, and the residue is purified by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 1.06 g of the title compound as a yellow oil.

reactant | hydrochloric acid | 1.3 ml | Cl | ClH
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine | 1.37 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC1=CN2C(S1)=CN=C2SC)O[Si](C)(C)C(C)(C)C | C21H33N3O3S2Si
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (3R,5S)-1-allyloxycarbonyl-3-hydroxy-5-(5-methylthioimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine | 1.03 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1CC1=CN2C(S1)=CN=C2SC)O | C15H19N3O3S2
